US07939661B2
Step 2: (7-Chloro-quinolin-4-yl)-piperidin-4-yl-amine dihydrochloride
A solution of 4-(7-chloro-quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.09 g, 5.78 mmol) in dioxane (30 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 262.3 [M+H]+.

reactant | 4-(7-chloro-quinolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 5.78 mmol, 2.09 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=NC2=CC(=CC=C12)Cl | C19H24ClN3O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | (7-Chloro-quinolin-4-yl)-piperidin-4-yl-amine dihydrochloride | Cl.Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1CCNCC1 | InChI=1S/C14H16ClN3.2ClH/c15-10-1-2-12-13(5-8-17-14(12)9-10)18-11-3-6-16-7-4-11;;/h1-2,5,8-9,11,16H,3-4,6-7H2,(H,17,18);2*1H
